2132-01-24 06:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Started on Levo gtt for BP 45, thereafter did well, attempt to titrate
   Vent for optimal gas exchange
 DIALYSIS CATHETER - START [**2132-1-23**] 05:00 PM
   uncertain of insertion date
 INVASIVE VENTILATION - START [**2132-1-23**] 05:15 PM
 ARTERIAL LINE - START [**2132-1-23**] 08:35 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2132-1-23**] 09:36 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Norepinephrine - 0.09 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-24**] 06:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 84 (73 - 107) bpm
   BP: 105/57(73) {95/54(68) - 128/79(98)} mmHg
   RR: 11 (0 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,461 mL
                                                                    433 mL
   PO:
             TF:
   IVF:
                                                                  3,461 mL
                                                                    433 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,461 mL
                                                                    433 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 295 (250 - 350) mL
   PS : 10 cmH2O
   RR (Set): 10
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 100
   PIP: 26 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.36/48/121/25/1
   Ve: 4.9 L/min
   PaO2 / FiO2: 202
   Physical Examination
   General intubated and sedated, cachectic
   HEENT NCAT, MM dry
   Pulm-CTAB Anteriorly
   CV-RRR
   Abd-Protuberant, +BS
   Extrem-Warm, well perfused
   Labs / Radiology
   197 K/uL
   11.8 g/dL
   82 mg/dL
   3.4 mg/dL
   25 mEq/L
   3.9 mEq/L
   17 mg/dL
   110 mEq/L
   142 mEq/L
   36.3 %
   20.1 K/uL
        [image002.jpg]
                             [**2132-1-23**]  08:41 PM
                             [**2132-1-23**]  09:06 PM
                             [**2132-1-23**]  11:20 PM
                             [**2132-1-24**]  01:08 AM
                             [**2132-1-24**]  03:38 AM
                             [**2132-1-24**]  04:12 AM
   WBC
   17.4
   20.1
   Hct
   34.0
   36.3
   Plt
   117
   197
   Cr
   3.1
   3.4
   TCO2
   27
   24
   26
   28
   Glucose
   88
   82
   Other labs: PT / PTT / INR:20.7/48.2/2.0, ALT / AST:26/32, Alk Phos / T
   Bili:190/3.4, Differential-Neuts:85.5 %, Lymph:8.9 %, Mono:5.3 %,
   Eos:0.2 %, Lactic Acid:1.8 mmol/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.5 mg/dL
   Assessment and Plan
   65M with presumed EtOH cirrhosis transferred from OSH for management of
   dyspnea and expedited workup for consideration of combined liver -
   kidney transplant
   .
   #Respiratory distress: Intubated urgently in setting of desaturations.
   Possibilities include worsening of hydrothorax, pneumonia or aspiration
   pneumonitis.  At this point not febrile. CXR shows worsening of right
   opacification.
   -follow sputum cx
   -Repeat CXR
   -f/u OSH thoracentesis results
   .
   #MRSA bacteremia: Vanco during HD, to complete 14-day course on
   [**2131-2-3**]. Discontinued ceftriaxone as no evidence of ongoing gram
   negative infection based on culture data.
   - Repeat surveillance cultures daily to ensure clearance
   - Echocardiogram, TTE to assess for vegetations
   .
   # Altered mental status: likely hepatic encephalopathy and worsening in
   setting of sepsis
   -continue antibiotics for MRSA bacteremia, hold on further abx and dose
   according to fevers or other signs of infection
   -lactulose titrated to [**3-12**] BM/day
   -consider rifaximin if no improvement in [**1-11**] days with above
   .
   # ESLD: Most recent MELD 28 on [**2131-12-25**].
   -pretransplant work up
   -HBV, HCV, EBV, Toxo, CMV, VZV, MMR, RPR, HIV all done on [**2131-12-25**].
   - Will need Hep B and Hep A vaccinations, can consider starting while
   in house
   - Ordered for echocardiogram to assess for pulmonary hypertension and
   re-assess reported inferior and anterolateral wall motion abnormalities
   at OSH.
   - ? TIPS candidate for recurrent hepatic hydrothorax
   - Restarted furosemide/spironolactone and nadolol since blood pressure
   stable here.
   .
   # Renal failure: Due to ATN following surgery in [**11-16**].
   - Dialysis team notified
   -Consult renal transplant for consideration of liver/kidney listing
   -continue HD
   -Renagel, nephrocaps
   .
   # FEN: History of recent weight loss (165->146 in [**Month (only) 1143**]; will repeat
   today); with anorexia and poor po intake.
   -regular diet
   -nutrition consult with calorie counts; consideration of Dobhoff/tube
   feeds if not at goal
   -follow lytes
   # Access: PIV
   # PPX: ambulating, lactulose, PPI, nadolol
   # Dispo: pending
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2132-1-23**] 05:00 PM
   22 Gauge - [**2132-1-23**] 05:00 PM
   Arterial Line - [**2132-1-23**] 08:35 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2132-01-30 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2132-1-29**] 12:00 PM
   -TTE:Hypercontractile small left ventricular cavity. No mass/vegetation
   seen on the mitral or the aortic valves. Large pleural effuion and
   ascites are present.
   -PM lytes:wnl, except for Cr 2.0
   -Family:Would like all measures performed for life sustaining-will
   re-eval in 2 days to determine if improvement and next step.
   -Patient started on vasopressin
   -Redose meds depending on CVVH
   -vanc high trough-but got vanc prior to level back, hold tomorrow
   -d/c lanthanum per renal
   -HCT drop overnight with heme + stool, ordered cryo and 1 u PRBC,
   repeat HCT for 6 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-1-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-1-30**] 02:13 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-29**] 07:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-30**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 80 (80 - 100) bpm
   BP: 131/62(85) {84/49(61) - 131/73(93)} mmHg
   RR: 18 (12 - 19) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 12 (2 - 17)mmHg
   Total In:
                                                                  3,732 mL
                                                                    586 mL
   PO:
   TF:
                                                                     56 mL
   IVF:
                                                                  3,437 mL
                                                                    287 mL
   Blood products:
                                                                    200 mL
                                                                    299 mL
   Total out:
                                                                  1,113 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                    586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   SpO2: 96%
   ABG: 7.40/39/75/22/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General ill appearing, cachectic, intubated but not sedated and
   response only to noxious stimuli
   HEENT: anicteric, dry mm
   Neck: no JVD
   Pulm: lungs with improved breath sounds bilaterally, no rales/rhonchi
   CV regular with nml s1 s2 no m/r/g
   Abd: nontender or distended, hypoactive bowel sounds
   Ext: warm 1+ bilateral edema palpable distal pulses palmar erythema
   +dupuytrens contractures
   Neuro: prior to intubation responds to voice able to answer yes/no
   questions, no asterixis, moving all extremities
   Labs / Radiology
   43 K/uL
   8.2 g/dL
   100 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   11 mg/dL
   103 mEq/L
   137 mEq/L
   24.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2132-1-28**]  09:52 PM
                             [**2132-1-29**]  03:12 AM
                             [**2132-1-29**]  03:23 AM
                             [**2132-1-29**]  08:54 AM
                             [**2132-1-29**]  09:15 AM
                             [**2132-1-29**]  05:49 PM
                             [**2132-1-29**]  06:00 PM
                             [**2132-1-30**]  03:09 AM
                             [**2132-1-30**]  03:14 AM
                             [**2132-1-30**]  05:30 AM
   WBC
   17.6
   15.8
   14.0
   8.0
   8.0
   Hct
   30.1
   29.6
   31.3
   24.2
   24.9
   Plt
   66
   63
   74
   51
   43
   Cr
   1.3
   1.6
   2.0
   2.2
   TCO2
   20
   21
   23
   23
   25
   Glucose
   103
   104
   95
   100
   Other labs: PT / PTT / INR:26.3/61.3/2.6, ALT / AST:23/31, Alk Phos / T
   Bili:173/6.7, Amylase / Lipase:53/40, Differential-Neuts:87.9 %,
   Lymph:9.6 %, Mono:2.0 %, Eos:0.4 %, Fibrinogen:72 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:237 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: L Effusion unchanged, R lung still poorly aerated.
   Microbiology: BCx: Pending
   Assessment and Plan
   65M with presumed EtOH cirrhosis transferred from OSH for management of
   dyspnea and expedited workup for consideration of combined liver -
   kidney transplant transferred to the MICU following increased
   respiratory distress during HD.
   #. Hypoxic Respiratory Failure:  Secondary to sepsis and right sided
   effusion.  Currently on mechanical ventilation.
   Will not attempt to wean today given worsening hypotension and clinical
   status.   Discontinued sedation given hypotension, may need to give
   small bolus if poor vent compliance
   - Treat line sepsis
   #.  Hypotension:  Worsening overnight, had to discontinue CVVH, mildly
   fluid responsive.   Likely secondary to septic shock.  Currently maxed
   out on Levophed, will add Vasopressin today
   - Continue vancomycin, dosed by level, and continue zosyn, consider
   broadening coverage
   - Continue daily blood cultures, follow other cultures, but no growth
   to date here.
   - Paracentesis yesterday did not show evidence of SBP
   - Plan for TEE today if more stable
   #. Anemia: Hct drop of 7 points overnight, transfused 1 unit PRBC.  No
   clear etiology
   -          T&S
   #. Renal failure:  thought sequelae of ATN post surgery [**11-16**]
   - The patient was on CVVH, however discontinued last night after
   difficulties with anticoagulation, flow rate and hypotension
   - Will check second set of lytes this AM and replete as needed
   - no longer a transplant candidate
   .
   #. Ileus: Large stomach residuals.  Likely secondary to bowel wall
   edema
   - Continue Reglan
   - TF held this AM, will attempt to restart today
   - Consider KUB later today if not improving
   #. Altered mental Status
   Likely secondary to current infection exacerbated by hypoxia, as well
   as hepatic encephalopathy and sedation.
   - Treating infection as above
   - Continue lactulose
   #. Cirrhosis
   - Holding diuretics and beta blockers in setting of hypotension
   - No longer transplant candidate at this time
   - f/u liver recommendations
   FEN/GI: Hold TF, replete lytes as needed through CVVH
   Proph: pneumoboots, PPI
   Access: L IJ and fem dialysis catheter
   Code: Full Code will discuss goals of care with wife today
   Communication: Wife: [**Name (NI) 1708**] [**Telephone/Fax (1) 3486**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-23**] 08:35 PM
   Multi Lumen - [**2132-1-24**] 02:05 PM
   Dialysis Catheter - [**2132-1-25**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-30 10:26:00 Physician Attending Progress Note
Chief Complaint: shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with cirrhosis, septic shock, renal failure, respiratory
   failure.  Had Hct drop and heme+ stool overnight.
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2132-1-29**] 12:00 PM: No masses or
   vegetations
   Had family meeting yesterday where we discussed with his wife and son
   overall goals of care.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-1-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-1-30**] 02:13 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-30**] 09:15 AM
   Other medications:
   chlorhexidine
   celexa
   lactulose
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-30**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.2
C (97.2
   HR: 87 (80 - 100) bpm
   BP: 127/62(84) {88/52(65) - 131/73(93)} mmHg
   RR: 15 (12 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 13 (2 - 17)mmHg
   Total In:
                                                                  3,732 mL
                                                                    834 mL
   PO:
   TF:
                                                                     56 mL
   IVF:
                                                                  3,437 mL
                                                                    334 mL
   Blood products:
                                                                    200 mL
                                                                    500 mL
   Total out:
                                                                  1,113 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,619 mL
                                                                    834 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.40/39/75/22/0
   Ve: 8.3 L/min
   PaO2 / FiO2: 125
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: right side)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   43 K/uL
   100 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.0 mEq/L
   11 mg/dL
   103 mEq/L
   137 mEq/L
   24.9 %
   8.0 K/uL
        [image002.jpg]
                             [**2132-1-28**]  09:52 PM
                             [**2132-1-29**]  03:12 AM
                             [**2132-1-29**]  03:23 AM
                             [**2132-1-29**]  08:54 AM
                             [**2132-1-29**]  09:15 AM
                             [**2132-1-29**]  05:49 PM
                             [**2132-1-29**]  06:00 PM
                             [**2132-1-30**]  03:09 AM
                             [**2132-1-30**]  03:14 AM
                             [**2132-1-30**]  05:30 AM
   WBC
   17.6
   15.8
   14.0
   8.0
   8.0
   Hct
   30.1
   29.6
   31.3
   24.2
   24.9
   Plt
   66
   63
   74
   51
   43
   Cr
   1.3
   1.6
   2.0
   2.2
   TCO2
   20
   21
   23
   23
   25
   Glucose
   103
   104
   95
   100
   Other labs: PT / PTT / INR:26.3/61.3/2.6, ALT / AST:23/31, Alk Phos / T
   Bili:173/6.7, Amylase / Lipase:53/40, Differential-Neuts:87.9 %,
   Lymph:9.6 %, Mono:2.0 %, Eos:0.4 %, Fibrinogen:72 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:237 IU/L, Ca++:9.6 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   Respiratory failure:  Try to wean to PSV again today.
   Altered MS:  Still very poor, not following commands
   Septic shock:  Still no source, decreased WBC, but still on two
   pressors
   Anemia:  [**Month (only) 11**] have some DIC given evidence of schistocytes on smear.
   Also likely having some GIB.
   Chronic renal failure:  Will hold off on CVVH today.  To address goals
   of care tomorrow
   coagulopathy:  Transfuse cryo and plts as needed for hemorrhage .
   ICU Care
   Nutrition:
   Restart TFs
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-23**] 08:35 PM
   Multi Lumen - [**2132-1-24**] 02:05 PM
   Dialysis Catheter - [**2132-1-25**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2132-01-31 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Appropriate bump post transfusion, Hct maintained overnight
   - Fibrinogen responded to transfusion to 150
   - Vanc level increased, repeat in AM
   - PEEP increased overnight resulting in BP drop necessitating increased
   pressor support.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-1-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-1-31**] 02:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-30**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-31**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 89 (75 - 100) bpm
   BP: 90/56(68) {89/50(64) - 135/72(94)} mmHg
   RR: 17 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 10 (7 - 16)mmHg
   Total In:
                                                                  1,519 mL
                                                                    161 mL
   PO:
   TF:
                                                                    163 mL
   IVF:
                                                                    606 mL
                                                                    161 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,519 mL
                                                                    -39 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 446 (300 - 564) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Sao2 < 90%
   PIP: 24 cmH2O
   Plateau: 20 cmH2O
   Compliance: 36.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/38/69/22/-2
   Ve: 8.5 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General ill appearing, cachectic, intubated but not sedated and
   response only to noxious stimuli
   HEENT: anicteric, dry mm
   Neck: no JVD
   Pulm: lungs with improved breath sounds bilaterally, diffuse rhonchi
   CV regular with nml s1 s2 no m/r/g
   Abd: nontender or distended, hypoactive bowel sounds
   Ext: warm 1+ bilateral edema palpable distal pulses palmar erythema
   +dupuytrens contractures
   Neuro: Responds to painful stimuli only.
   Labs / Radiology
   44 K/uL
   9.7 g/dL
   114 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   16 mg/dL
   101 mEq/L
   135 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2132-1-30**]  03:09 AM
                             [**2132-1-30**]  03:14 AM
                             [**2132-1-30**]  05:30 AM
                             [**2132-1-30**]  10:31 AM
                             [**2132-1-30**]  12:34 PM
                             [**2132-1-30**]  03:55 PM
                             [**2132-1-30**]  04:09 PM
                             [**2132-1-30**]  08:28 PM
                             [**2132-1-31**]  03:17 AM
                             [**2132-1-31**]  03:23 AM
   WBC
   8.0
   8.0
   8.3
   7.6
   10.2
   Hct
   24.2
   24.9
   27.9
   26.2
   26.4
   28.3
   Plt
   51
   43
   46
   47
   44
   Cr
   2.2
   2.5
   2.8
   TCO2
   25
   19
   24
   23
   Glucose
   100
   130
   114
   Other labs: PT / PTT / INR:20.7/50.2/1.9, ALT / AST:23/31, Alk Phos / T
   Bili:173/6.7, Amylase / Lipase:53/40, Differential-Neuts:87.9 %,
   Lymph:9.6 %, Mono:2.0 %, Eos:0.4 %, Fibrinogen:156 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:237 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR [**1-31**]: R effusion denser, L side unchanged
   Microbiology: Cx pending
   Assessment and Plan
   65M with presumed EtOH cirrhosis transferred from OSH for management of
   dyspnea and expedited workup for consideration of combined liver -
   kidney transplant transferred to the MICU following increased
   respiratory distress during HD.
   #. Hypoxic Respiratory Failure:  Secondary to sepsis and right sided
   effusion.  Currently on mechanical ventilation with minimal sedation.
   -          Treat line sepsis
   -          Trial of PSV today
   #.  Hypotension:  Still on Levophed & Vasopressin, less labile today.
   - Continue vancomycin, dosed by level, and continue zosyn, consider
   broadening coverage
   - Continue daily blood cultures, follow other cultures, but no growth
   to date here.
   #. Anemia: Hct drop of 7 points overnight, transfused 1 unit PRBC.
   Likely due to hemolysis or DIC with possible GI losses given guaiac
   positive stool.  Low Fibrinogen
   -          Finish pRBC transfusion
   -          Q4 Hct
   -          Cryoprecipitate x1
   -          Recheck Fibrinogen, Coags, plts in PM
   #. Renal failure:  thought sequelae of ATN post surgery [**11-16**]
   - No acute indication for CVVH today
   - Will check second set of lytes this AM and replete as needed
   - no longer a transplant candidate
   #. Ileus: Large stomach residuals.  Likely secondary to bowel wall
   edema
   - Continue Reglan
   - TF held this AM, will attempt to restart today, consider post-pyloric
   feeding tube
   #. Altered mental Status
   Likely secondary to current infection exacerbated by hypoxia, as well
   as hepatic encephalopathy and sedation.
   - Treating infection as above
   - Continue lactulose
   #. Cirrhosis
   - Holding diuretics and beta blockers in setting of hypotension
   - No longer transplant candidate at this time
   - f/u liver recommendations
   FEN/GI: Restart TF, check residuals
   Proph: pneumoboots, PPI
   Access: L IJ and fem dialysis catheter
   Code: Full Code to be reassessed in 48 hours with family
   Communication: Wife: [**Name (NI) 1708**] [**Telephone/Fax (1) 3486**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-23**] 08:35 PM
   Multi Lumen - [**2132-1-24**] 02:05 PM
   Dialysis Catheter - [**2132-1-25**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2132-01-31 09:57:00 Physician Attending Progress Note
Chief Complaint: septic shock, respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with cirrhosis, septic shock, respiratory failure.  Worsening
   oxygenation requiring increased PEEP and increased pressor requirement
   overnight.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-1-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-1-31**] 02:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 12.5 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-30**] 08:27 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-31**] 09:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.5
   HR: 97 (75 - 100) bpm
   BP: 83/59(67) {83/50(64) - 135/72(94)} mmHg
   RR: 19 (13 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 13 (7 - 16)mmHg
   Total In:
                                                                  1,519 mL
                                                                    212 mL
   PO:
   TF:
                                                                    163 mL
   IVF:
                                                                    606 mL
                                                                    212 mL
   Blood products:
                                                                    650 mL
   Total out:
                                                                      0 mL
                                                                    200 mL
   Urine:
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,519 mL
                                                                     12 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 446 (300 - 564) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Sao2 < 90%
   PIP: 25 cmH2O
   Plateau: 24 cmH2O
   Compliance: 28.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/38/69/22/-2
   Ve: 9.9 L/min
   PaO2 / FiO2: 115
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left side)
   Abdominal: Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Noxious stimuli, Movement:
   Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   44 K/uL
   114 mg/dL
   2.8 mg/dL
   22 mEq/L
   3.8 mEq/L
   16 mg/dL
   101 mEq/L
   135 mEq/L
   28.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2132-1-30**]  03:09 AM
                             [**2132-1-30**]  03:14 AM
                             [**2132-1-30**]  05:30 AM
                             [**2132-1-30**]  10:31 AM
                             [**2132-1-30**]  12:34 PM
                             [**2132-1-30**]  03:55 PM
                             [**2132-1-30**]  04:09 PM
                             [**2132-1-30**]  08:28 PM
                             [**2132-1-31**]  03:17 AM
                             [**2132-1-31**]  03:23 AM
   WBC
   8.0
   8.0
   8.3
   7.6
   10.2
   Hct
   24.2
   24.9
   27.9
   26.2
   26.4
   28.3
   Plt
   51
   43
   46
   47
   44
   Cr
   2.2
   2.5
   2.8
   TCO2
   25
   19
   24
   23
   Glucose
   100
   130
   114
   Other labs: PT / PTT / INR:20.7/50.2/1.9, ALT / AST:23/31, Alk Phos / T
   Bili:173/6.7, Amylase / Lipase:53/40, Differential-Neuts:87.9 %,
   Lymph:9.6 %, Mono:2.0 %, Eos:0.4 %, Fibrinogen:156 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:237 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Respiratory failure:  Increasing oxygen requirement, likely due to
   worsening effusion.  Can tap, but will likely reaccumulate.
   Septic shock:  On increasing dose of pressors overnight.  Still unclear
   source of infection.  On broad spectrum antibiotics.
   Renal failure:  Will hold off on CVVH until our family discussion
   today.
   Ileus:  Not tolerating TFs, can attempt post-pyloric tube feed pending
   on family discussion.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-23**] 08:35 PM
   Multi Lumen - [**2132-1-24**] 02:05 PM
   Dialysis Catheter - [**2132-1-25**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2132-02-01 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2132-1-31**] Events:
   - Family meeting, decided to make the pt DNR, but can escalate care to
   additional pressors
   - Neosynephrine added
   - Pressures dropped to the 50's systolic with any movement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2132-1-29**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-1**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-31**] 07:36 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-1**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 103 (92 - 118) bpm
   BP: 109/60(77) {60/46(51) - 130/73(88)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
    CVP: 214 (7 - 214)mmHg
   Total In:
                                                                  1,064 mL
                                                                  1,636 mL
   PO:
   TF:
   IVF:
                                                                  1,064 mL
                                                                  1,636 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    275 mL
   Urine:
   NG:
                                                                    275 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    864 mL
                                                                  1,361 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 100 (100 - 100) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.32/28/108/13/-10
   Ve: 9.2 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General ill appearing, cachectic, intubated but not sedated and
   response only to noxious stimuli
   HEENT: anicteric, dry mm
   Neck: no JVD
   Pulm: lungs with improved breath sounds bilaterally, diffuse rhonchi
   CV regular with nml s1 s2 no m/r/g
   Abd: nontender or distended, hypoactive bowel sounds
   Ext: warm 1+ bilateral edema palpable distal pulses palmar erythema
   +dupuytrens contractures
   Neuro: Responds to painful stimuli only.
   Labs / Radiology
   151 K/uL
   10.0 g/dL
   105 mg/dL
   3.7 mg/dL
   13 mEq/L
   4.6 mEq/L
   21 mg/dL
   101 mEq/L
   134 mEq/L
   29.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2132-1-30**]  10:31 AM
                             [**2132-1-30**]  12:34 PM
                             [**2132-1-30**]  03:55 PM
                             [**2132-1-30**]  04:09 PM
                             [**2132-1-30**]  08:28 PM
                             [**2132-1-31**]  03:17 AM
                             [**2132-1-31**]  03:23 AM
                             [**2132-1-31**]  04:50 PM
                             [**2132-2-1**]  01:30 AM
                             [**2132-2-1**]  03:19 AM
   WBC
   8.3
   7.6
   10.2
   16.5
   Hct
   27.9
   26.2
   26.4
   28.3
   31.6
   29.1
   Plt
   46
   47
   44
   151
   Cr
   2.5
   2.8
   3.4
   3.7
   TCO2
   19
   24
   23
   15
   Glucose
   130
   114
   92
   105
   Other labs: PT / PTT / INR:47.0/62.5/5.3, ALT / AST:69/198, Alk Phos /
   T Bili:231/10.7, Amylase / Lipase:53/40, Differential-Neuts:87.9 %,
   Lymph:9.6 %, Mono:2.0 %, Eos:0.4 %, Fibrinogen:156 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:328 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   65M with presumed EtOH cirrhosis transferred from OSH for management of
   dyspnea and expedited workup for consideration of combined liver -
   kidney transplant transferred to the MICU following increased
   respiratory distress during HD.  His pressor requirement is greater at
   this time and he continues to do poorly today.
   #. Hypoxic Respiratory Failure:  Secondary to sepsis and right sided
   effusion.  Currently on mechanical ventilation.  Cannot wean mechanical
   ventilation
   -          Treat line sepsis
   -          Increase Fi02, not PEEP
   -          The wife is coming in at 9am this morning to discuss the
   overall plan
   #.  Hypotension:  Requiring greater amounts of Levophed & Vasopressin,
   added neosynephrine yesterday, was maxed out on all three overnight
   when his pressures dropped to the 50
s systolic.  Pt responded to fluid
   bolus then, however will likely third space fluid, so will not repeat
   unless absolutely necessary
   - Holding vancomycin because level supratherapeutic, will restart when
   level less than 20, and continue zosyn
   -follow cultures, but no growth to date here
   #. Anemia: Hct stable after transfusion.
   -          [**Hospital1 **] Hct
   #. Renal failure:  thought sequelae of ATN post surgery [**11-16**].
   - No acute indication for CVVH today
   - PM Lytes
   - no longer a transplant candidate
   #. Ileus: Large stomach residuals.  Likely secondary to bowel wall
   edema
   - Continue Reglan
   - TF held because of high residuals, no plan to place doboff
   #. Altered mental Status
   Likely secondary to current infection exacerbated by hypoxia, as well
   as hepatic encephalopathy and sedation.
   - Treating infection as above
   - Continue lactulose
   #. Cirrhosis
   - Holding diuretics and beta blockers in setting of hypotension
   - No longer transplant candidate at this time
   - f/u liver recommendations
   FEN/GI: holding tube feeds
   Proph: pneumoboots, PPI
   Access: L IJ and fem dialysis catheter
   Code: Full Code to be reassessed in today in Family meeting
   Communication: Wife: [**Name (NI) 1708**] [**Telephone/Fax (1) 3486**]
 INEFFECTIVE COPING
 ALTERATION IN NUTRITION
 .H/O DIARRHEA
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 IMPAIRED SKIN INTEGRITY
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-23**] 08:35 PM
   Multi Lumen - [**2132-1-24**] 02:05 PM
   Dialysis Catheter - [**2132-1-25**] 03:00 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:  ICU

2132-02-01 08:49:00 Physician Attending Progress Note
Chief Complaint: septic shock.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo man with cirrhosis, renal failure, admitted with respiratory
   failure and septic shock.   Patient worsening overnight.  Started on
   phenylephrine
   24 Hour Events:
   Increasing pressory requirement
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2132-2-1**] 06:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 1.5 mcg/Kg/min
   Norepinephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2132-1-31**] 07:36 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-2-1**] 08:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 103 (93 - 118) bpm
   BP: 109/60(77) {60/46(51) - 130/73(88)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 70 Inch
   CVP: 214 (7 - 214)mmHg
   Total In:
                                                                  1,064 mL
                                                                  1,736 mL
   PO:
   TF:
   IVF:
                                                                  1,064 mL
                                                                  1,736 mL
   Blood products:
   Total out:
                                                                    200 mL
                                                                    275 mL
   Urine:
   NG:
                                                                    275 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    864 mL
                                                                  1,462 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 100 (100 - 100) mL
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: Hemodynamic Instability
   PIP: 19 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.32/28/108/13/-10
   Ve: 11.1 L/min
   PaO2 / FiO2: 180
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: right side)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   151 K/uL
   105 mg/dL
   3.7 mg/dL
   13 mEq/L
   4.6 mEq/L
   21 mg/dL
   101 mEq/L
   134 mEq/L
   29.1 %
   16.5 K/uL
        [image002.jpg]
                             [**2132-1-30**]  10:31 AM
                             [**2132-1-30**]  12:34 PM
                             [**2132-1-30**]  03:55 PM
                             [**2132-1-30**]  04:09 PM
                             [**2132-1-30**]  08:28 PM
                             [**2132-1-31**]  03:17 AM
                             [**2132-1-31**]  03:23 AM
                             [**2132-1-31**]  04:50 PM
                             [**2132-2-1**]  01:30 AM
                             [**2132-2-1**]  03:19 AM
   WBC
   8.3
   7.6
   10.2
   16.5
   Hct
   27.9
   26.2
   26.4
   28.3
   31.6
   29.1
   Plt
   46
   47
   44
   151
   Cr
   2.5
   2.8
   3.4
   3.7
   TCO2
   19
   24
   23
   15
   Glucose
   130
   114
   92
   105
   Other labs: PT / PTT / INR:47.0/62.5/5.3, ALT / AST:69/198, Alk Phos /
   T Bili:231/10.7, Amylase / Lipase:53/40, Differential-Neuts:87.9 %,
   Lymph:9.6 %, Mono:2.0 %, Eos:0.4 %, Fibrinogen:156 mg/dL, Lactic
   Acid:2.0 mmol/L, Albumin:2.0 g/dL, LDH:328 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   Increasing pressor requirement - unlikely to survive more than a day or
   two.  Spoke with Mrs. [**Known lastname **] about this and how keeping him comfortable
   with
   more sedative medications may make his BP worse and hasten his death.
   She agrees that we should take care that his comfort is more important
   then
   maintaining his BP.   So will restart sedation and if he becomes more
   hypotensive will not worry as long as he is comfortable.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2132-1-23**] 08:35 PM
   Multi Lumen - [**2132-1-24**] 02:05 PM
   Dialysis Catheter - [**2132-1-25**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   Addendum:  After further discussion with wife, decision made to make
   the patient CMO.